US09399639B2
Step 2) 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl propionate
To a solution of N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide (0.2 g, 0.41 mmol) in DMF (1 mL) was added Et3N (165 mg, 1.64 mmol). The reaction was stirred at 10° C. for 10 min, followed by the dropwise addition of a solution of TBAB (264 mg, 1.64 mmol) in DMF (0.5 mL) and a solution of 1-chloroethyl propionate (67 mg, 0.41 mmol) in DMF (0.5 mL) over 30 min. The mixture was stirred at 10° C. for another 3 h, then diluted with EtOAc (40 mL) and filtered. The filtrate was concentrated in vacuo and the residue was purified by a silica gel column chromatography (PE/EtOAc (v/v)=4/1) to afford the title compound as a white solid (141 mg, 58%). The title compound was characterized by LCMS and 1H NMR as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide | 0.41 mmol, 0.2 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | Et3N | 1.64 mmol, 165 mg | CCN(CC)CC | C6H15N
reactant | 1-chloroethyl propionate | 0.41 mmol, 67 mg | C(CC)(=O)OC(C)Cl | C5H9ClO2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | TBAB | 1.64 mmol, 264 mg | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl propionate | 141 mg, 58% | C(CC)(=O)OC(C)N1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O | C28H26ClF2N3O5S
